US07342118B2
3-{4-[2-(2-Hydroxy-3-methyl-butyrylamino)-pentanoylamino]-imidazol-1-yl}-3-methyl-butyric acid methyl ester
3-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-3-methyl-butyric acid methyl ester was coupled with (S)-2-hydroxy-3-methyl-butyric acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 16.0, 19.1, 19.4, 28.1, 32.2, 35.5, 47.1, 51.9, 52.7, 56.4, 105.1, 131.1, 137.6, 169.6, 170.0, 174.0.

reactant | 3-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(CCC)N)=O)=O | C14H24N4O3
reactant | (S)-2-hydroxy-3-methyl-butyric acid | O[C@H](C(=O)O)C(C)C | C5H10O3
product | 3-{4-[2-(2-Hydroxy-3-methyl-butyrylamino)-pentanoylamino]-imidazol-1-yl}-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(CCC)NC(C(C(C)C)O)=O)=O)=O | C19H32N4O5
